US08071600B2
6N-hydrochloric acid (3 ml) was added to a methanol solution (10 ml) of {4-[3-(4-benzo[b]thiophen-4-yl-piperazin-1-yl)propoxy]-3-methoxy-5-methylphenyl}-carbamic acid tert-butyl ester (2.18 g, 4.3 mmol) and the mixture was stirred at room temperature overnight. After stirred at 60° C. for 15 minutes, the mixture was cooled to room temperature and a 6N aqueous sodium hydroxide solution was added thereto to neutralize it. Dichloromethane was added to the reaction mixture, and the substance extracted with dichloromethane was dried over magnesium sulfate and concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (n-hexane:ethyl acetate=3:2→ethyl acetate). The purified product was concentrated to dryness under reduced pressure to obtain 4-[3-(4-benzo[b]thiophen-4-yl-piperazin-1-yl)propoxy]-3-methoxy-5-methylaniline (1.26 g) as light yellow solid

reactant | hydrochloric acid | 3 ml | Cl | ClH
reactant | methanol | 10 ml | CO | CH4O
reactant | {4-[3-(4-benzo[b]thiophen-4-yl-piperazin-1-yl)propoxy]-3-methoxy-5-methylphenyl}-carbamic acid tert-butyl ester | 4.3 mmol, 2.18 g | C(C)(C)(C)OC(NC1=CC(=C(C(=C1)C)OCCCN1CCN(CC1)C1=CC=CC=2SC=CC21)OC)=O | C28H37N3O4S
reactant | sodium hydroxide | 6N | [OH-].[Na+]
solvent | Dichloromethane | ClCCl | CH2Cl2
product | 4-[3-(4-benzo[b]thiophen-4-yl-piperazin-1-yl)propoxy]-3-methoxy-5-methylaniline | 1.26 g | S1C2=C(C=C1)C(=CC=C2)N2CCN(CC2)CCCOC2=C(C=C(N)C=C2C)OC | C23H29N3O2S
